US08624034B2
Step B) (2R)-4-[4-(2,2-Difluoro-1,3-benzodioxol-5-yl)-5-fluoro-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Aqueous HCl (1.42 mL, 1.42 mmol) was added to a solution of (2R)-4-[4-(2,2-Difluoro-1,3-benzodioxol-5-yl)-5-fluoro-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (259 mg, 0.474 mmol) in ethanol (5 mL) and water (2 mL) and the reaction was stirred overnight at rt. The solid was collected via filtration, washed with water (5×3 mL) and dried under reduced pressure to afford the title compound (143 mg, 65.3%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58 (s, 3H) 2.07-2.24 (m, 1H) 2.36-2.49 (m, 1H) 3.11 (s, 3H) 3.68-3.86 (m, 1H) 3.98-4.13 (m, 1H) 6.58 (d, J=7.61 Hz, 1H) 7.36-7.49 (m, 1H) 7.55 (d, J=8.39 Hz, 1H) 7.68 (s, 1H) 8.06 (d, J=6.63 Hz, 1H) 9.24 (br. s., 1H) 11.08 (s, 1H).

reactant | HCl | 1.42 mmol, 1.42 mL | Cl | ClH
reactant | (2R)-4-[4-(2,2-Difluoro-1,3-benzodioxol-5-yl)-5-fluoro-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.474 mmol, 259 mg | FC1(OC2=C(O1)C=CC(=C2)C2=CC(N(C=C2F)CC[C@](C(=O)NOC2OCCCC2)(S(=O)(=O)C)C)=O)F | C23H25F3N2O8S
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | (2R)-4-[4-(2,2-Difluoro-1,3-benzodioxol-5-yl)-5-fluoro-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 143 mg, 65.3% | FC1(OC2=C(O1)C=CC(=C2)C2=CC(N(C=C2F)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)F | C18H17F3N2O7S
